US05821239
4-((2-Methylpropyl)amino)-3-pyridinol N,N-diethylcarbamate
A solution of isobutyric acid (49.85 g) in 100 ml of benzene was treated with NaBH4 (6.91 g added portionwise). After the frothing subsided, 4-amino-3-pyridinol N,N-diethylcarbamate (4.90 g) was added and the mixture was heated at 85° C. for 3 hours. The reaction mixture was poured into a dilute NaOH solution and the aqueous phase was extracted with ethyl acetate (3×). The combined organics were washed with water and dried (saturated NaCl, MgSO4). The desired amine was purified via flash chromatography to give 2.05 g of solid. This product was recrystallized from hexane to give analytically pure material, m.p. 71°-75° C.

reactant | isobutyric acid | 49.85 g | C(C(C)C)(=O)O | C4H8O2
reactant | NaBH4 | [BH4-].[Na+]
reactant | 4-amino-3-pyridinol N,N-diethylcarbamate | 4.90 g | C(C)N(C(=O)OC=1C=NC=CC1N)CC | C10H15N3O2
reactant | NaOH | [OH-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-((2-Methylpropyl)amino)-3-pyridinol N,N-diethylcarbamate | 2.05 g | C(C)N(C(=O)OC=1C=NC=CC1NCC(C)C)CC | C14H23N3O2
